US07435742B2
Intermediate I-5—Preparation of [2-(3,4-Dimethoxyphenyl)ethyl]-(5-methylfuran-2-ylmethyl)amine
To a solution of 4.82 g (26.6 mmol) of 2-(3,4-dimethoxyphenyl)ethylamine and 3.0 g (27.2 mmol) of 5-methylfuran-2-carbaldehyde in 65 ml of EtOH, 18.3 g of molecular sieves (0.3 nm) were added and the mixture was refluxed for 4 hours. After this time the reaction mixture was cooled to room temperature and filtered. The solution obtained was concentrated in vacuo to obtain an oil. This oil was dissolved in 65 ml of MeOH and 1.01 g (26.6 mmol) of NaBH4 were added in small portions, maintaining the temperature of the reaction at room temperature. The mixture was stirred at this temperature for 16 hours more. After this time the solvent was evaporated in vacuo and the residue was treated with 150 ml of water and extracted twice with ether.

reactant | 2-(3,4-dimethoxyphenyl)ethylamine | 26.6 mmol, 4.82 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | 5-methylfuran-2-carbaldehyde | 27.2 mmol, 3.0 g | CC1=CC=C(O1)C=O | C6H6O2
reactant | NaBH4 | 26.6 mmol, 1.01 g | [BH4-].[Na+]
solvent | EtOH | 65 ml | CCO | C2H6O
solvent | MeOH | 65 ml | CO | CH4O
product | [2-(3,4-Dimethoxyphenyl)ethyl]-(5-methylfuran-2-ylmethyl)amine | COC=1C=C(C=CC1OC)CCNCC=1OC(=CC1)C | C16H21NO3
